* c:\users\hp\esim-workspace\cmosasaninverter\cmosasaninverter.cir

.lib "sky130_fd_pr/models/sky130.lib.spice" tt
xm2 net-_m2-pad1_ in out net-_m2-pad1_ sky130_fd_pr__pfet_01v8 
xm1 out in gnd gnd sky130_fd_pr__nfet_01v8 
v1  in gnd pwl(0 0 10 0 11 5 20 5)
v2 net-_m2-pad1_ gnd  dc 5
* u2  out plot_v1
* u1  in plot_v1
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in)
.endc
.end
